US04363923
A mixture of 25.2 parts of diketene, 62.7 parts of bromotrichloromethane and 1.5 parts of azobisisobutyronitrile dissolved in 978 parts of carbon tetrachloride was irradiated by UV light at room temperature (20°-25° C.) for 5 hours. The mixture was evaporated at the water pump and the product, 4-bromo-4-(2,2,2-trichloroethyl)-oxetan-2-one, was obtained as a yellow oil which crystallised on cooling. Recrystallisation of this material three times from light petroleum ether (b.p. 40°-60° C.) gave white needles m.p. 55°-56° C.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | bromotrichloromethane | BrC(Cl)(Cl)Cl | CBrCl3
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-4-(2,2,2-trichloroethyl)-oxetan-2-one | BrC1(CC(O1)=O)CC(Cl)(Cl)Cl | C5H4BrCl3O2
